US06930120B2
2-Methyl-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-3-propyl-phenyl}-2-phenoxy-propionic acid ethyl ester
A solution of 3-(4-hydroxy-3-propylphenyl)-2-methyl-2-phenoxy-propionic acid ethyl ester (266 mg, 1.0 mmol) in DMF (10 mL) was treated with cesium carbonate (407 mg, 1.25 mmol) and toluene-4-sulfonic acid 2-(2-phenyl-5-methyloxazol-4-yl)-ethyl ester and then heated at 55° C. for 18 h. After cooling to ambient temperature, the mixture was partitioned between EtOAc and water. The aqueous phase was extracted with EtOAc and then the organic phases were dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by column chromatography (100 mL SiO2, hexanes to 30% EtOAc/hexanes) to provide the desired product (315 mg, 60%) as a clear, colorless oil: MS (EI) 528.3 (M+H)+.

reactant | 3-(4-hydroxy-3-propylphenyl)-2-methyl-2-phenoxy-propionic acid ethyl ester | 1.0 mmol, 266 mg | C(C)OC(C(CC1=CC(=C(C=C1)O)CCC)(OC1=CC=CC=C1)C)=O | C21H26O4
reactant | cesium carbonate | 1.25 mmol, 407 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | toluene-4-sulfonic acid 2-(2-phenyl-5-methyloxazol-4-yl)-ethyl ester | C1(=CC=CC=C1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C | C19H19NO4S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-Methyl-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-3-propyl-phenyl}-2-phenoxy-propionic acid ethyl ester | 315 mg, 60% | C(C)OC(C(CC1=CC(=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CCC)(OC1=CC=CC=C1)C)=O | C33H37NO5
